US04367238
A solution of 2-[2-methoxy-3-(o-tolylthio)phenyl]acetonitrile (5.9 g) in hydriodic acid (58%, 15 ml) and acetic acid (30 ml) was refluxed under heating for 17 hours. After concentration, water and aqueous sodium hydrogen sulfite were added to the residue and extracted with diethyl ether. The extract was washed with dil. aqueous sodium hydrogen sulfite and water in turn and evaporated. To the residue was added a solution of potassium hydroxide (2 g) in methanol (50 ml), and the mixture was refluxed under heating for 2 hours. Methanol was distilled off under reduced pressure, and the residue was dissolved in water, washed with diethyl ether, acidified with conc. hydrochloric acid and then extracted with diethyl ether. The extract was washed with water, dried and exaporated under reduced pressure to give crude 2-[2-hydroxy-3-(o-tolylthio)phenyl]acetic acid (4.2 g). To this product was added acetic anhydride (5 ml), and the mixture was refluxed under heating. The reaction mixture was evaporated, and the resultant oily residue was crystallized with ethanol to give pale yellow needles of 7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one (1.58 g), mp. 108°-109° C.

reactant | 2-[2-methoxy-3-(o-tolylthio)phenyl]acetonitrile | 5.9 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)C)CC#N | C16H15NOS
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 15 ml | I | HI
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one | 1.58 g | C1(=C(C=CC=C1)SC1=CC=CC=2CC(OC21)=O)C | C15H12O2S
